US06610723B2
1-[1-(4-Chloro-3-methyl-phenyl)-1H-imidazol-4-yl-methyl]-4,5,6,7-tetrahydro-1H-benzoimidazole-, Hydrochloride (1:2)
[1-(4-Chloro-3-methyl-phenyl)-1H-imidazol-4-yl]-methanol was treated first with thionylchloride, then with the reaction mixture of sodium hydride and 4,5,6,7-tetrahydro-benzimidazole. After extractive workup and chromatography the title compound was obtained as the free base. It was converted into its white hydrochloride salt. Mp.>250° C. (MeOH/Et2O), MS: m/e=326 (M+).

reactant | [1-(4-Chloro-3-methyl-phenyl)-1H-imidazol-4-yl]-methanol | ClC1=C(C=C(C=C1)N1C=NC(=C1)CO)C | C11H11ClN2O
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydride | [H-].[Na+]
reactant | 4,5,6,7-tetrahydro-benzimidazole | N1=CNC2=C1CCCC2 | C7H10N2
product | 1-[1-(4-Chloro-3-methyl-phenyl)-1H-imidazol-4-yl-methyl]-4,5,6,7-tetrahydro-1H-benzoimidazole-, Hydrochloride | Cl.ClC1=C(C=C(C=C1)N1C=NC(=C1)CN1C=NC2=C1CCCC2)C | InChI=1S/C18H19ClN4.ClH/c1-13-8-15(6-7-16(13)19)22-9-14(20-11-22)10-23-12-21-17-4-2-3-5-18(17)23;/h6-9,11-12H,2-5,10H2,1H3;1H
